US05362878
N-(6-methylthioquinolin-5-yl)oleamide
5-Amino-6-methylthioquinoline, prepared as described in Example 34, and commercially available oleoyl chloride were coupled to give the title compound according to the procedure described in Example 25. Mass spectrum m/e: 454.3 (M+).

reactant | 5-Amino-6-methylthioquinoline | NC1=C2C=CC=NC2=CC=C1SC | C10H10N2S
reactant | oleoyl chloride | C(CCCCCCC\C=C/CCCCCCCC)(=O)Cl | C18H33ClO
product | N-(6-methylthioquinolin-5-yl)oleamide | CSC=1C(=C2C=CC=NC2=CC1)NC(CCCCCCC\C=C/CCCCCCCC)=O | C28H42N2OS
